US07368578B2
A mixture of 4-{[2-bromo-4-(chloromethyl)phenoxy]methyl}-2-(2-furyl)-5-methyl-1,3-oxazole (3.52 g), ethyl 1-benzyl-3-hydroxy-1H-pyrazole-4-carboxylate (2.27 g), potassium carbonate (1.27 g) and N,N-dimethylformamide (100 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give ethyl 1-benzyl-3-[(3-bromo-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carboxylate as colorless crystals (5.17 g, yield 95%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 158-159° C.

reactant | 4-{[2-bromo-4-(chloromethyl)phenoxy]methyl}-2-(2-furyl)-5-methyl-1,3-oxazole | 3.52 g | BrC1=C(OCC=2N=C(OC2C)C=2OC=CC2)C=CC(=C1)CCl | C16H13BrClNO3
reactant | ethyl 1-benzyl-3-hydroxy-1H-pyrazole-4-carboxylate | 2.27 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)O | C13H14N2O3
reactant | potassium carbonate | 1.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 1-benzyl-3-[(3-bromo-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carboxylate | 5.17 g, yield 95% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)Br | C29H26BrN3O6
